US06849657B2
To a solution of (5R)-5-(1-ethoxyethoxymethyl)pyrrolidin-2-one (3.31 g, 17.7 mmol) in 50 mL of anhydrous dimethylformamide at 0° C. under an argon atmosphere was added potassium iodide (3.22 g, 19.4 mmol) and sodium hydride (95%, 0.44 g, 17.7 mmol). The cooling bath was removed and the reaction was stirred for 30 minutes. A solution of methyl 4-[(2-chloroethyl)thio]butanoate (3.46 g, 17.7 mmol) in 5 mL anhydrous dimethylformamide was added and the reaction solution was warmed to 50° C. and stirred for 40 hours. The volatiles were removed via simple distillation under vacuum. Ethyl acetate (150 mL) and aqueous ammonium chloride solution (50 mL) were then added to the crude residue. Upon separation between the two phases, the ethyl acetate solution was dried (anhydrous. Na2SO4) and evaporated under reduced pressure. To a solution of the protected ester (17.7 mmol) in 70 mL of anhydrous methanol at room temperature under an argon atmosphere was added p-toluenesulfonic acid monohydrate (0.34 g, 1.8 mmol). After stirring for 5 hours, aqueous sodium bicarbonate solution (50 mL) was added and the reaction mixture was evaporated under reduced pressure. Ethanol (50 mL) was added and the solution was again evaporated. The resultant material was purified via column chromatography to yield methyl 4-({2-[(5R)-5-(hydroxymethyl)-2-oxo pyrrolidin-1-yl]ethyl}thio)butanoate as a tan oil (0.17 g, mass spec. M+=275).

reactant | (5R)-5-(1-ethoxyethoxymethyl)pyrrolidin-2-one | 17.7 mmol, 3.31 g | C(C)OC(C)OC[C@H]1CCC(N1)=O | C9H17NO3
reactant | potassium iodide | 19.4 mmol, 3.22 g | [I-].[K+]
reactant | sodium hydride | 17.7 mmol, 0.44 g | [H-].[Na+]
reactant | methyl 4-[(2-chloroethyl)thio]butanoate | 17.7 mmol, 3.46 g | ClCCSCCCC(=O)OC | C7H13ClO2S
reactant | p-toluenesulfonic acid monohydrate | 1.8 mmol, 0.34 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | methanol | 70 mL | CO | CH4O
product | methyl 4-({2-[(5R)-5-(hydroxymethyl)-2-oxo pyrrolidin-1-yl]ethyl}thio)butanoate | OC[C@H]1CCC(N1CCSCCCC(=O)OC)=O | C12H21NO4S
